US04927818
To a solution of 7β-amino-3-(3-amino-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate trihydrochloride (6.96 g) and N-(trimethylsilyl)acetamide (21.8 g) in tetrahydrofuran (150 ml) was added methanesulfonyl (Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-carboxymethoxyiminoacetate (4.86 g) at ambient temperature. After being stirred for 30 minutes at the same temperature, the mixture was poured into diethyl ether (2 l), and the resultant precipitate was collected by filtration. The precipitate was dissolved in water, and the solution was adjusted to pH 2.0 with aqueous sodium bicarbonate solution. The solution was subjected to column chromatography on macroporous non-ionic adsorption resin, Diaion HP-20. The desired product was eluted with 5% isopropyl alcohol solution and lyophilized to give 7β[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-carboxymethoxyiminoacetamido]-3-(3-amino-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate (syn isomer)(5.20 g).

reactant | 7β-amino-3-(3-amino-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate trihydrochloride | 6.96 g | Cl.Cl.Cl.N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=CC2)N)C)C(=O)[O-])C1=O
reactant | N-(trimethylsilyl)acetamide | 21.8 g | C[Si](NC(C)=O)(C)C | C5H13NOSi
reactant | methanesulfonyl (Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-carboxymethoxyiminoacetate | 4.86 g | NC1=NC(=NS1)/C(/C(=O)OS(=O)(=O)C)=N/OCC(=O)O | C7H8N4O7S2
reactant | diethyl ether | 2 l | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 7β[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-carboxymethoxyiminoacetamido]-3-(3-amino-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate | 5.20 g | NC1=NC(=NS1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=CC2)N)C)C(=O)[O-])C1=O)=NOCC(=O)O | C18H19N9O7S2
